US04912226
The Example 1 process wherein 1-(3,4-difluorobenzyl)-2-mercaptoimidazole is replaced by 1-(4-methoxybenzyl)-2-mercaptoimidazole yields 2-(2-aminoethylthio)-1-(4-methoxybenzyl)imidazole. Treatment of this compound in methylene chloride with boron tribromide yields 2-(2-aminoethylthio)-1-(4-hydroxybenzyl)imidazole.

reactant | 1-(3,4-difluorobenzyl)-2-mercaptoimidazole | FC=1C=C(CN2C(=NC=C2)S)C=CC1F | C10H8F2N2S
reactant | 1-(4-methoxybenzyl)-2-mercaptoimidazole | COC1=CC=C(CN2C(=NC=C2)S)C=C1 | C11H12N2OS
product | 2-(2-aminoethylthio)-1-(4-methoxybenzyl)imidazole | NCCSC=1N(C=CN1)CC1=CC=C(C=C1)OC | C13H17N3OS
